US08304419B2
Step C: 3-chloro-5-[(2-fluoro-3-methyl-6-nitrophenyl)oxy]benzonitrile
The crude {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid was dissolved in CH3CN (50 mL) and Cu2O (0.65 g, 4.5 mmol) was added. A condenser was attached and the heterogeneous mixture was heated to reflux for 2 h. The reaction mixture was cooled to RT, filtered through Celite and the solvent evaporated. Purification was accomplished by column chromatography (hexane/EtOAc) to afford the title compound (6.0 g, 87%), which solidified upon standing. 1H NMR (400 MHz, DMSO-d6): δ ppm 7.98 (dd, 1H), 7.81 (d, 1H), 7.60 (d, 2H), 7.52 (t, 1H), 2.37 (d, 3H).

reactant | {3-[(3-chloro-5-cyanophenyl)oxy]-2-fluoro-4-nitrophenyl}acetic acid | ClC=1C=C(C=C(C1)C#N)OC=1C(=C(C=CC1[N+](=O)[O-])CC(=O)O)F | C15H8ClFN2O5
solvent | CH3CN | 50 mL | CC#N | C2H3N
product | 3-chloro-5-[(2-fluoro-3-methyl-6-nitrophenyl)oxy]benzonitrile | 6.0 g, 87% | ClC=1C=C(C#N)C=C(C1)OC1=C(C(=CC=C1[N+](=O)[O-])C)F | C14H8ClFN2O3
